US06447656B1
Phytanol (1)
Phytol (5.0 g, 16.7 mmol) was stirred in ethanol (50 mL) in the presence of Raney nickel (1.0 g, 50% slurry in water) overnight under H2 atmosphere. The catalyst was filtered off and the solvent evaporated to give a clear oil. Yield: 4.9 g (97%)

reactant | Phytol | 16.7 mmol, 5.0 g | CC(C)CCC[C@@H](C)CCC[C@@H](C)CCC\C(\C)=C\CO | C20H40O
solvent | ethanol | 50 mL | C(C)O | C2H6O
catalyst | Raney nickel | 1.0 g | [Ni] | Ni
product | Phytanol | C(CC(C)CCCC(C)CCCC(C)CCCC(C)C)O | C20H42O
